US06720323B2
4-Nitrophenyl chloroformate (1.01 g; 5.04 mmol) was added at 0° C. under argon atmosphere to a solution of 2-[di (benzyloxy)phosphoryloxy]ethanol (1.62 g; 5.09 mmol) and triethylamine (0.7 ml; 5 mmol) in dichloromethane (20 ml). The mixture was stirred at ambient temperature for 30 minutes, evaporated and purified by flash chromatography, eluting with petroleum ether/ethyl acetate (40/60) to give 2-[di(benzyloxy)phosphoryloxy]ethyl 4-nitrophenyl carbonate.

reactant | 4-Nitrophenyl chloroformate | 5.04 mmol, 1.01 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-[di (benzyloxy)phosphoryloxy]ethanol | 5.09 mmol, 1.62 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OCCO | C16H19O5P
reactant | triethylamine | 5 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[di(benzyloxy)phosphoryloxy]ethyl 4-nitrophenyl carbonate | Yield: 45% | C(OCCOP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H22NO9P
